US07612114B2
3-Methoxy-8-(4-methoxy-2-nitrophenyl)-6,7-dihydro-5H-benzocycloheptene
Synthesized from 2-methoxy-5,7,8,9-tetrahydrobenzocyclohepten-6-one according to an analogous synthetic method to Preparation Example 82, 2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl trifluoromethanesulfonate (3.0 g) and tributyl(4-methoxy-2-nitrophenyl)tin (10.8 g) were used according to an analogous synthetic method to Preparation Example 77 to provide the title compound (2.8 g).

reactant | 2-methoxy-5,7,8,9-tetrahydrobenzocyclohepten-6-one | COC=1C=CC2=C(CCCC(C2)=O)C1 | C12H14O2
reactant | 2-methoxy-8,9-dihydro-7H-benzocyclohepten-6-yl trifluoromethanesulfonate | 3.0 g | FC(S(=O)(=O)OC1=CC2=C(CCC1)C=C(C=C2)OC)(F)F | C13H13F3O4S
reactant | tributyl(4-methoxy-2-nitrophenyl)tin | 10.8 g | C(CCC)[Sn](C1=C(C=C(C=C1)OC)[N+](=O)[O-])(CCCC)CCCC
product | 3-Methoxy-8-(4-methoxy-2-nitrophenyl)-6,7-dihydro-5H-benzocycloheptene | 2.8 g | COC1=CC2=C(C=C(CCC2)C2=C(C=C(C=C2)OC)[N+](=O)[O-])C=C1 | C19H19NO4
